2140-07-14 07:25:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure
   24 Hour Events:
 MULTI LUMEN - START [**2140-7-13**] 08:15 PM
 BLOOD CULTURED - At [**2140-7-13**] 10:03 PM
 SPUTUM CULTURE - At [**2140-7-14**] 01:03 AM
   .
   BP stable overnight
   Able to wean O2 to 50%/ 5 PEEP
   Trying to achieve 6cc/kg TV per ARDS net
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   unobtainable pt intubated
   Flowsheet Data as of  [**2140-7-14**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 72 (59 - 72) bpm
   BP: 97/45(58) {94/35(54) - 114/68(79)} mmHg
   RR: 17 (13 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 77.5 kg
             Total In:
                                                                    314 mL
                                                                    596 mL
   PO:
             TF:
   IVF:
                                                                    154 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                    130 mL
   Urine:
                                                                    180 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    134 mL
                                                                    466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.43/53/272/32/9
   Ve: 8.1 L/min
   PaO2 / FiO2: 544
   Physical Examination
   Intubated and sedated
   PEARL, scleral icterus
   Regular S1 S2 no m /r/g
   Lungs with coarsened breath sounds on L, ?pleural rub
   Abd soft fluid wave
   Extrem warm tr dependent edema palpable pulses
   Jaundiced
   Labs / Radiology
   238 K/uL
   7.9 g/dL
   108 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.1 mEq/L
   13 mg/dL
   100 mEq/L
   141 mEq/L
   23.7 %
   12.6 K/uL
        [image002.jpg]
                             [**2140-7-13**]  09:03 PM
                             [**2140-7-13**]  11:20 PM
                             [**2140-7-14**]  03:15 AM
   WBC
   12.6
   Hct
   23.4
   23.7
   Plt
   238
   Cr
   0.8
   TCO2
   36
   Glucose
   108
   Other labs: PT / PTT / INR:21.6/46.6/2.1, Lactic Acid:2.0 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Pleural fluid LDH 127 (ser LDH 326), pleural prot 2.9 (ser total prot
   PENDING)
   cell count [**Pager number **],750 rbc, 288 wbc (41% poly, 21% lymph, 3% eos, 18% meso,
   17% macrophage)
   Imaging:
   /27 CT Chest wet read
   s/p thoracentesis of the left lung with reexapnsion of the left lung.
   The re-
   expanded left lung is completely opacified . this may suggest
   re-expansion
   pulmonary edema. incraesing ground glass opacities of the right lung
   which are
   concerning for infection. unchanged Large volume ascites.
   [**7-14**] CXR: complete white-out of the L lung
   Microbiology
   [**7-13**] pleural fluid 1+ polys no organisms on gram, cx pending
   [**7-13**] blood cx NGTD
   [**2140-7-14**] 12:22 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2140-7-14**]):
         [**12-11**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who is
   transferred to the MICU for hypoxic respiratory failure after
   thoracentesis.
   .
   #. Hypoxic respiratory failure:
   Suspect re-expansion pulmonary edema
   DDX after thoracentesis in the setting of large volume transfusions is
   TRALI vs re-expansion pulmonary edema vs aspiration vs pneumothorax.
   Because the CXR shows a unilateral infiltrate, TRALI seems less likely
   and b/c the infiltrate is L-sided, aspiration seems less likely.  His
   leukocytosis has been stable (in setting of recent SBP) and he has not
   had any fevers also making a new pulmonary infection less compelling.
   Has lung collapse on imaging.
   - increase PEEP to 10 to facilitate reexpansion
   - diurese with goal -500cc  today
   - check 2pm ABG on new vent settings
   - continue to hold on antibiotics
   - hold on chest tube
   .
   # Pleural effusion
    Chemistries consistent with a transudative process, probably due to
   cirrhosis (eg hepatic hydrothorax) though more common on R side. Had an
   echo recently with nl EF so CHF unlikely cause.
   - follow up pending fluid cultures
   .
   # Alcoholic cirrhosis with ascitis c/b SBP, c/b encephalopathy, c/b
   portal gastropathy: (A) SBP: finished course of CTX (B) Encephalopathy:
   improved Varices (grade I esophageal varices s/p banding and portal
   gastropathy):
   - will cont lactulose q4
   - cont rifaximin
   - resume  nadolol, lasix , will hold spironolactone for now
   - cont Pentoxifylline
   - MRI as outpatient for HCC
   .
   # Macrocytic anemia: Pt s/p 2U pRBC [**7-8**] with Hct dropping to 22.8
   today. Hct had been stable since [**7-8**]. Likely ooze from gastropathy.
   Curently on folate supplementation and b12 wnl. Hct has been stable
   ranging 24-26.
   - will cont to [**Last Name (LF) 1174**], [**First Name3 (LF) 116**] hold on more transfusions given possible
   TRALI
   - PPI
   - Daily crits
   - T&S
   - guaiac all stools
   .
   # Acute Renal Failure: resolved.
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   ICU Care
   Nutrition: Will start TF if not extubated today
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2140-7-13**] 08:15 PM
 need to d/c femoral line once PICC
   placed
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2140-07-14 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2140-7-13**] 08:15 PM
 BLOOD CULTURED - At [**2140-7-13**] 10:03 PM
 SPUTUM CULTURE - At [**2140-7-14**] 01:03 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-7-14**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 72 (59 - 72) bpm
   BP: 98/47(60) {94/35(54) - 114/68(79)} mmHg
   RR: 21 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.9 kg (admission): 77.5 kg
             Total In:
                                                                    314 mL
                                                                    628 mL
   PO:
             TF:
   IVF:
                                                                    154 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                    190 mL
   Urine:
                                                                    180 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    134 mL
                                                                    438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.43/53/272/32/9
   Ve: 8.1 L/min
   PaO2 / FiO2: 544
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   238 K/uL
   108 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.1 mEq/L
   13 mg/dL
   100 mEq/L
   141 mEq/L
   23.7 %
   12.6 K/uL
        [image002.jpg]
                             [**2140-7-13**]  09:03 PM
                             [**2140-7-13**]  11:20 PM
                             [**2140-7-14**]  03:15 AM
   WBC
   12.6
   Hct
   23.4
   23.7
   Plt
   238
   Cr
   0.8
   TCO2
   36
   Glucose
   108
   Other labs: PT / PTT / INR:21.6/46.6/2.1, Lactic Acid:2.0 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   38-year-old man with
   >         Acute hypoxemic respiratory failure
   o         Likely re-expansion pulmonary edema
   o         The confluence of intravascular volume loading and large
   quantities of plasma (10 units FFP) also predispose to acute pulmonary
   edema and may exacerbate re-expansion edema
   o         Aim for low-tidal volume ventilation.  Although technically
   does not meet criteria for ARDS, it seems reasonable to minimize tidal
   volume here.  He is currently tolerating about 7 cc/kg PBW (450 cc).
   Multiple vent maneuvers attempted to achieve compliance with 6 cc/kg
   but without further sedation unsuccessful.  We will aim to slowly
   decrease tidal volume to 6 cc/kg PBW tonight.  At this point (since BP
   in mid-90s), I think this is the best balance of risks and benefits (as
   opposed to deep sedation to permit 6cc/kg).
   o         Repeat ABG or VBG tonight and make further decisions pending
   results.
   o         No evidence of infection at this point.  Check ET aspirate
   for culture while off antibiotics other than cipro.
   o         Repeat upright CXR to further evaluate for PTX.
   > Cirrhosis
   o         Twice a day PPI
   o         Hold nadolol tonight; consider resuming in a.m.
   o         Hold diuretics tonight
   >      Coagulopathy
   o         Review records to ensure not nutritional
   >    Anemia (but some acute hemoconcentration)
   o         No clinical bleeding
   o         Expect Hct to fall as hemoconcetration resolves
   o         Recheck hct
   >          Access
   o         Fem line will need to be removed in next 24 hours
   o         The tempo of illness here is uncertain; since there is a
   reasonable chance of improvement by morning, we will leave in place for
   now.  If stable
 PICC in a.m.  Otherwise left IJ placement.
   Other issues per ICU team note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-7-13**] 08:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2140-07-15 07:11:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   - PEEP increased to 10
   - restarted lasix
   - PICC placed and L fem line d/c'd
   - Blood cx from [**7-13**] + for GPR c/w clostridium and bacillus, started on
   vanc/zosyn per ID
   - Tm 101.6 at MN
   - Transfused 1 unit Hct for hct 20.7 from 23.7
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-7-15**] 03:46 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-7-15**] 05:28 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-7-14**] 08:44 PM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   unobtainable
   Flowsheet Data as of  [**2140-7-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 77 (70 - 93) bpm
   BP: 106/49(63) {98/44(59) - 119/58(72)} mmHg
   RR: 10 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.9 kg (admission): 77.5 kg
   Height: 69 Inch
           Total In:
                                                                  2,057 mL
                                                                  1,123 mL
   PO:
           TF:
                                                                    197 mL
                                                                    176 mL
   IVF:
                                                                  1,340 mL
                                                                    507 mL
   Blood products:
   350 mL
   Total out:
                                                                  1,260 mL
                                                                    240 mL
   Urine:
                                                                  1,260 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    797 mL
                                                                    883 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 540 (424 - 563) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.49/49/118/35/13
   Ve: 6.3 L/min
   PaO2 / FiO2: 236
   Physical Examination
   Intubated
   Sclera icteric, PEARL
   Lungs with decreased breath sounds on left
   Regular S1 S2 soft systolic apical murmur
   Abdomen distended but soft with +fluid wave, +bowel sounds
   Extrem with 1+ edema, warm, palpable pulses
   L PICC in place, no exudate or erythema
   Jaundiced
   Opens eyes to voice, follows commands to squeeze hands and wiggle toes
   Foley draining dark yellow urine
   Labs / Radiology
   208 K/uL
   7.4 g/dL
   115 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.7 mEq/L
   13 mg/dL
   98 mEq/L
   139 mEq/L
   20.7 %
   12.3 K/uL
        [image002.jpg]
                             [**2140-7-13**]  09:03 PM
                             [**2140-7-13**]  11:20 PM
                             [**2140-7-14**]  03:15 AM
                             [**2140-7-14**]  03:20 PM
                             [**2140-7-14**]  04:42 PM
                             [**2140-7-15**]  01:31 AM
   WBC
   12.6
   12.3
   Hct
   23.4
   23.7
   20.7
   Plt
   238
   208
   Cr
   0.8
   0.6
   0.8
   TCO2
   36
   38
   Glucose
   108
   98
   115
   Other labs: PT / PTT / INR:23.8/47.7/2.3, ALT / AST:29/68, Alk Phos / T
   Bili:64/8.5, Lactic Acid:2.0 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.1 mg/dL
   CXR improved airation L upper lung fields
   Micro
   [**7-15**] urine ngtd
   [**7-14**] blood cx ngtd
   [**7-14**] sputum [**12-11**] wbc, <10 epis no organisms on gram cx NGTD
   [**7-13**] 1 of 2 fem line blood cx GPRs c/w clostridia and bacillus
   [**7-13**] CVL blood cx NGTD
   [**7-13**] pleural fluid 1+ polys no organisms on gram cx NGTD
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who is
   transferred to the MICU for hypoxic respiratory failure after
   thoracentesis.
   .
   #. Hypoxic respiratory failure:
   Suspect re-expansion pulmonary edema. DDx including TRALI and pna, but
   think less likely.
   Lung aeration improved today on PSV 10/10, good oxygenation. Minimal
   secretions to suggest a developing pna, though he did develop a fever
   overnight.
   - Continue diuresis goal -500cc, lasix 40mg now
   - repeat ABG today
   - f/u CXR to evaluate reexpansion
   - sputum cx
   # Fever with GPR bacteremia
   Patient
s [**7-13**] blood cultures have grown GPRs prelim consistent with
   bacillus and clostridia. Possibly seeded blood from GI tract, other
   potential source includes emergently placed femoral line which is now
   discontinued.
   - Continuing vancomycin and Zosyn per ID recommendations, cipro ppx
   - Follow up pending urine and blood cultures, check stool C diff given
   recent antibiotics, CIS
   - Follow up final sensitivities and speciation for GPRs
   - possible para today to r/o recurrent SBP
   .
   # Pleural effusion
    Chemistries consistent with a transudative process, probably due to
   cirrhosis (eg hepatic hydrothorax) though more common on R side. Had an
   echo recently with nl EF so CHF unlikely cause.
   - follow up pending fluid cultures
   .
   # Alcoholic cirrhosis with ascitie c/b SBP, c/b encephalopathy, c/b
   portal gastropathy:
   MELD 24 today
   - will cont lactulose q4
   - cont rifaximin
   - cipro ppx s/p ceftriaxone for SBP
   - resume  nadolol, lasix , will hold spironolactone for now
   - cont Pentoxifylline
   - MRI as outpatient for HCC
   .
   # Macrocytic anemia: Has history of gastropathy. Hct had been drifting
   down, no gross bleeding now s/p 1 unit PRBCs overnight.
   - Continue PPI  [**Hospital1 **]
   - Daily crits
   - T&S
   - guaiac all stools
   - check hemolysis labs
   - discuss EGD with liver
   .
   # Acute Renal Failure: resolved.
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-7-15**] 12:07 AM 25 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2140-7-14**] 09:02 AM
   18 Gauge - [**2140-7-15**] 05:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2140-07-15 07:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2140-7-14**] 09:02 AM
 MULTI LUMEN - STOP [**2140-7-14**] 01:05 PM CVC femoral removed
 BLOOD CULTURED - At [**2140-7-14**] 07:42 PM
   peripheral
 BLOOD CULTURED - At [**2140-7-14**] 08:15 PM
   peripheral
 FEVER - 101.6
F - [**2140-7-15**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-7-15**] 03:46 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-7-15**] 05:28 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-7-14**] 08:44 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-7-15**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 79 (70 - 93) bpm
   BP: 108/37(55) {98/37(55) - 119/58(72)} mmHg
   RR: 12 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.9 kg (admission): 77.5 kg
   Height: 69 Inch
           Total In:
                                                                  2,057 mL
                                                                  1,377 mL
   PO:
           TF:
                                                                    197 mL
                                                                    203 mL
   IVF:
                                                                  1,340 mL
                                                                    674 mL
   Blood products:
   350 mL
   Total out:
                                                                  1,260 mL
                                                                    240 mL
   Urine:
                                                                  1,260 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    797 mL
                                                                  1,137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 540 (424 - 563) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.49/49/118/35/13
   Ve: 6.3 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   208 K/uL
   115 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.7 mEq/L
   13 mg/dL
   98 mEq/L
   139 mEq/L
   20.7 %
   12.3 K/uL
        [image002.jpg]
                             [**2140-7-13**]  09:03 PM
                             [**2140-7-13**]  11:20 PM
                             [**2140-7-14**]  03:15 AM
                             [**2140-7-14**]  03:20 PM
                             [**2140-7-14**]  04:42 PM
                             [**2140-7-15**]  01:31 AM
   WBC
   12.6
   12.3
   Hct
   23.4
   23.7
   20.7
   Plt
   238
   208
   Cr
   0.8
   0.6
   0.8
   TCO2
   36
   38
   Glucose
   108
   98
   115
   Other labs: PT / PTT / INR:23.8/47.7/2.3, ALT / AST:29/68, Alk Phos / T
   Bili:64/8.5, Lactic Acid:2.0 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.1 mg/dL
   Blood clx femoral [**7-14**]: clostridium and bacillus
   CXR: mislabeled as wrong patient
   Assessment and Plan
   38-year-old man with EtOH cirrhosis being treated for SBP and had a
   left sided pleural effusion [**7-13**] and became acutely hypoxemic post
   procedure (had received 11 U FFP prior to procedure) now improved from
   resp standpoint but with no fevers.
    > Fevers: 101.6 with blood cultures from femoral CVC showing
   clostridium and bacillus which has been removed. Would favor
   Repeating paracentesis and clxs from urine and c. dif and sputum
   - Cont Vanco and Pip-tazo
   - clxs as above.
   >   Acute hypoxemic respiratory failure:  Likely re-expansion pulmonary
   edema and dense atelectasis with lungs that have been down for a period
   of time (low surfactant levels).   The confluence of intravascular
   volume loading and large quantities of plasma (10 units FFP) also
   predispose to acute pulmonary edema and may exacerbate re-expansion
   edema
   -         He is tolerating PS  well. Continue higher PEEP levels (PS
   [**11-26**])
   - gentle diuresis today to aim for goal neg 500 cc to - L
   > Anemia: Hct now down to 20 (has a known gastropathy). Will d/w liver
   team re: EGD. Transfused 1 U PRBC at 4AM.
   - PM Hct
   - hemolysis labs
   - cont [**Hospital1 **] PPI
   > Cirrhosis
   -        Twice a day PPI
   -         restart nadolol
   -      cont lasix
   -   cont ciprofloxacin  for SBP.
   - cont lactulose and rifax
   Other issues per ICU team note.
   ICU Care
   Nutrition:
   Restart tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2140-7-14**] 09:02 AM
   18 Gauge - [**2140-7-15**] 05:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2140-07-16 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - much improved aeration L lung
   - diagnostic para with removal of 60cc straw colored fluid, no SBP
   - GI performed EGD showing gastropathy, placed post pyloric tube
   - dc'd ciprofloxacin
   - bilious tracheal secretions aspirated post-EGD
   - SELF EXTUBATED overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-7-15**] 09:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2140-7-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-7-15**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No complaints
   Flowsheet Data as of  [**2140-7-16**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 78 (68 - 84) bpm
   BP: 101/56(67) {101/44(60) - 116/61(74)} mmHg
   RR: 12 (8 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.9 kg (admission): 77.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,580 mL
                                                                    190 mL
   PO:
             TF:
                                                                    259 mL
   IVF:
                                                                  1,821 mL
                                                                    190 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,820 mL
                                                                    330 mL
   Urine:
                                                                  2,510 mL
                                                                    330 mL
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
                                                                     60 mL
   Balance:
                                                                 -1,240 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Apnea Ventilation
   Vt (Spontaneous): 561 (513 - 608) mL
   PS : 10 cmH2O
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.47/50/91/31/10
   Ve: 4 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Sleepy, arouses to voice
   Sclera icteric, PEARL
   Lungs with decreased breath sounds on left
   Regular S1 S2 soft systolic apical murmur
   Abdomen distended but soft with +fluid wave, +bowel sounds
   Extrem with 1+ edema, warm, palpable pulses
   L PICC in place, no exudate or erythema
   Jaundiced
   Opens eyes to voice, follows commands to squeeze hands and wiggle toes
   Foley draining dark yellow urine
   Labs / Radiology
   161 K/uL
   8.3 g/dL
   100 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   13 mg/dL
   104 mEq/L
   144 mEq/L
   24.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2140-7-13**]  09:03 PM
                             [**2140-7-13**]  11:20 PM
                             [**2140-7-14**]  03:15 AM
                             [**2140-7-14**]  03:20 PM
                             [**2140-7-14**]  04:42 PM
                             [**2140-7-15**]  01:31 AM
                             [**2140-7-15**]  12:13 PM
                             [**2140-7-15**]  08:36 PM
                             [**2140-7-16**]  04:24 AM
                             [**2140-7-16**]  04:50 AM
   WBC
   12.6
   12.3
   9.7
   Hct
   23.4
   23.7
   20.7
   22.9
   24.4
   Plt
   238
   208
   161
   Cr
   0.8
   0.6
   0.8
   0.7
   0.7
   TCO2
   36
   38
   37
   Glucose
   108
   98
   115
   95
   100
   Other labs: PT / PTT / INR:25.7/52.2/2.5, ALT / AST:24/61, Alk Phos / T
   Bili:65/8.6, Differential-Neuts:77.6 %, Band:0.0 %, Lymph:12.5 %,
   Mono:4.0 %, Eos:5.5 %, Lactic Acid:1.8 mmol/L, LDH:262 IU/L, Ca++:8.7
   mg/dL, Mg++:1.5 mg/dL, PO4:4.2 mg/dL
   CXR increased L sided interstitial markings compared to prior
   Micro
   [**7-15**] urine ngtd
   [**7-14**] blood cx ngtd
   [**7-14**] sputum [**12-11**] wbc, <10 epis no organisms on gram cx NGTD
   [**7-13**] 1 of 2 fem line blood cx GPRs c/w clostridia and bacillus
   [**7-13**] CVL blood cx NGTD
   [**7-13**] pleural fluid 1+ polys no organisms on gram cx NGTD
   [**7-14**] urine cx NGTD
   [**7-14**] sputum [**12-11**] polys, no organisms on gram
   [**7-15**] ascites 2+ polys no organisms, cx NGTD
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who is
   transferred to the MICU for hypoxic respiratory failure after
   thoracentesis.
   #. Hypoxic respiratory failure:
   Stable post self-extubation last night.
   Suspect re-expansion pulmonary edema. DDx including TRALI and pna, but
   think less likely.
   Lung aeration improved today on PSV 10/10, good oxygenation. Minimal
   secretions to suggest a developing pna.
   - Wean O2 support as tolerated, suctioning prn
   # Fever with GPR bacteremia
   Patient
s [**7-13**] blood cultures have grown GPRs prelim consistent with
   bacillus and clostridia. Possibly seeded blood from GI tract, other
   potential source includes emergently placed femoral line which is now
   discontinued. No evidence of recurrent SBP on repeat para.
   - Continuing vancomycin and Zosyn per ID recommendations, hold cipro
   while on Zosyn
   - Follow up final sensitivities and speciation for GPRs
   - Follow up pending urine and blood cultures, check stool C diff given
   recent antibiotics, CIS
   .
   # Pleural effusion
    Chemistries consistent with a transudative process, probably due to
   cirrhosis (eg hepatic hydrothorax) though more common on R side. Had an
   echo recently with nl EF so CHF unlikely cause.
   - follow up pending fluid cultures
   .
   # Alcoholic cirrhosis with ascitie c/b SBP, c/b encephalopathy, c/b
   portal gastropathy:
   MELD 25 today
   - will cont lactulose q4
   - cont rifaximin
   - cipro ppx s/p ceftriaxone for SBP
   - resume  nadolol, lasix , spironolactone
   - cont pentoxifylline  (clarify with liver team if still needed)
   - MRI as outpatient for HCC
   .
   # Macrocytic anemia: Has history of gastropathy. Hct had been drifting
   down, no gross bleeding now s/p 1 unit PRBCs [**7-15**] early AM. EGD with
   gastropathy, no variceal bleeding. No compelling evidence for hemolysis
   (DAT negative no schistocytes)
   - Continue PPI  [**Hospital1 **]
   - Daily crits
   - T&S
   - guaiac all stools
   .
   # Acute Renal Failure: resolved.
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   ICU Care
   Nutrition: resume tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2140-7-14**] 09:02 AM
   18 Gauge - [**2140-7-15**] 05:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  head of bed elevation
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2140-07-16 08:47:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure following thoracentesis,
   in setting of EtOH- induced cirrhosis.
   HPI:
   38yo with presumed EtOH-induced cirrhosis, initially admitted [**2140-6-18**]
   with altered mental status in setting of SBP (Serratia). Underwent
   thoracentesis [**7-13**] for presumed hepatic hydrothorax given pt dyspneic;
   complicated by hypoxemic resp failure in setting of  rapid
   reaccumulation of effusion vs re-expansion pulmonary edema, requiring
   intubation.  ICU course complicated by Clostridium bacteremia (portal
   of entry= femoral triple lumen catheter).
   24 Hour Events:
 EGD yesterday--> gastropathy, no active bleeding. 3 areas of grade-1
   varices.
   -  Transfused 1 u PRBC yesterday with appropriate rise in Hct
 PARACENTESIS - At [**2140-7-15**] 12:39 PM
   diagnosotic --> wbc=300 (6% pmns)
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2140-7-16**] 02:25 AM
   on arrival pt was out of rt restraint ETT was still secured to tape ,
   totally out of airway, balloon inflated. Placed on NRBM followed by .5
   cool aerosol FM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2140-7-16**] 06:00 AM
   Vancomycin - [**2140-7-16**] 07:58 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-7-15**] 04:15 PM
   Lansoprazole (Prevacid) - [**2140-7-16**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-7-16**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 82 (68 - 84) bpm
   BP: 98/58(67) {98/44(60) - 116/61(74)} mmHg
   RR: 14 (8 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.9 kg (admission): 77.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,580 mL
                                                                    498 mL
   PO:
             TF:
                                                                    259 mL
   IVF:
                                                                  1,821 mL
                                                                    398 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,820 mL
                                                                    430 mL
   Urine:
                                                                  2,510 mL
                                                                    430 mL
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
                                                                     60 mL
   Balance:
                                                                 -1,240 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Apnea Ventilation
   Vt (Spontaneous): 561 (513 - 561) mL
   PS : 10 cmH2O
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.47/50/91/31/10
   Ve: 4 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   161 K/uL
   100 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   13 mg/dL
   104 mEq/L
   144 mEq/L
   24.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2140-7-13**]  09:03 PM
                             [**2140-7-13**]  11:20 PM
                             [**2140-7-14**]  03:15 AM
                             [**2140-7-14**]  03:20 PM
                             [**2140-7-14**]  04:42 PM
                             [**2140-7-15**]  01:31 AM
                             [**2140-7-15**]  12:13 PM
                             [**2140-7-15**]  08:36 PM
                             [**2140-7-16**]  04:24 AM
                             [**2140-7-16**]  04:50 AM
   WBC
   12.6
   12.3
   9.7
   Hct
   23.4
   23.7
   20.7
   22.9
   24.4
   Plt
   238
   208
   161
   Cr
   0.8
   0.6
   0.8
   0.7
   0.7
   TCO2
   36
   38
   37
   Glucose
   108
   98
   115
   95
   100
   Other labs: PT / PTT / INR:25.7/52.2/2.5, ALT / AST:24/61, Alk Phos / T
   Bili:65/8.6, Differential-Neuts:77.6 %, Band:0.0 %, Lymph:12.5 %,
   Mono:4.0 %, Eos:5.5 %, Lactic Acid:1.8 mmol/L, LDH:262 IU/L, Ca++:8.7
   mg/dL, Mg++:1.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   38yo with EtOH- associated cirrhosis, SBP and hypoxemic respiratory
   failure requiring intubation and mechanical ventilation following
   thoracentesis, thought secondary to rapid re-accumulation of hepatic
   hydrothorax, vs re-expansion pulmonary edema.
   1. Hypoxemic respiratory failure
       - Etiology still unclear --> likely combination of re-accumulation
   of hepatic hydrothorax and re-expansion of pulmonary edema
       - Pleural fluid unremarkable for infection (had lots of rbcs, but
   no crit sent)
       - Patient self-extubated and has been breathing on FiO2= 50% ever
   since. Pt currently doing well. No signs of laryngeal
          edema.
   2. Plerual Effusion
        - c/w hepatic hydrothorax --> diurese
   2. Bacillus bacteremia
       - Currently on Vanc/Zosyn; will discuss with ID narrowing coverage
   to Unasyn.
       - F/u sensitivities
   3. Gastropathy
       - On PPI given gastropathy
   4. Varices
       - On nadolol
   5. Cirrhosis
        - Will start lasix and spironolactone for diuresis
        - Currently on Rifaximin and Lactulose for encephalopathy
        - Nadolol for variceal bleed prophy.
        - Has not been evaluated for transplant given patient recently
   intoxicated; hepatology following.  Has had other etiologies of
           cirrhosis ruled out.
   6. Relative thrombocytopenia
        - Unclear etiology --> ? portal hypertension vs drug side
   effect.   Has not been on heparins. Clinical picture not c/w TTP-HUS.
           No evidence DIC on  peripheral smear.
          Will trend platelets.  If continues to drop will need further
   w/u
   7. Altered mental status
       - Likely c/w toxic metabolic.
       -improving. On Lactulose and Rifaximin.
   8. ICU
        - FULL Code
        - Access= PICC placed on [**7-14**]
        - Prophy- Boots, PPI
        - Communication = with Mother (decision maker)
        - [**Name (NI) **] can call to floor this afternoon.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-7-14**] 09:02 AM
   18 Gauge - [**2140-7-15**] 05:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Intubated following [**Female First Name (un) 231**] for hepatic hydrothorax. Self-extubated
   yesterday and hypoxemic though stable.
   Exam notable for Tmax: 37.4
C (99.4
F)  Tcurrent: 36.9
C (98.4
   HR: 82 (68 - 84) bpm  BP: 98/58(67) {98/44(60) - 116/61(74)} mmHg  RR:
   14 (8 - 16) insp/min  SpO2: 100%
   AOx3, responding to questions appropriately.
   Sclera icteric.
   No elevated JVP
   Lungs with bilateral crackles and rhonchi
   RRR no m/r/g
   Abd distended, soft, + fluid wave
   LE edema present
   Labs notable for improved WBC count, stable HCT, normal creatinine and
   unremarkable lytes
   Problems: respiratory failure
 extubated x 24 hours
 persistent
   hypoxemia, pleural effusion, re-expansion pulmonary edema, bacteremia,
   cirrhosis
   Agree with plan to continue O2 and wean as tolerated, diurese, continue
   antibiotics, supportive care re: cirrhosis
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2140-7-16**] 13:39 ------

2140-07-17 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - spoke with ID re: antibiotics, d/c'd zosyn and restarted cipro for
   SBP prophylaxis
   - restarted spironolactone
   - > 2.5 L negative -> gave back 500cc for tachycardia to the 100s
   - started TF, d/c'd due to good PO intake
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2140-7-16**] 06:00 AM
   Ciprofloxacin - [**2140-7-16**] 02:15 PM
   Vancomycin - [**2140-7-16**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-7-16**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-7-17**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 96 (82 - 111) bpm
   BP: 120/74(85) {89/48(61) - 120/74(85)} mmHg
   RR: 19 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.9 kg (admission): 77.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,279 mL
                                                                    313 mL
   PO:
             TF:
                                                                    304 mL
                                                                    162 mL
   IVF:
                                                                  1,416 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  4,160 mL
                                                                    790 mL
   Urine:
                                                                  3,060 mL
                                                                    290 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                 -1,881 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   Sleepy, arouses to voice
   Sclera icteric, PEARL
   Lungs with decreased breath sounds on left
   Regular S1 S2 soft systolic apical murmur
   Abdomen distended but soft with +fluid wave, +bowel sounds
   Extrem with 1+ edema, warm, palpable pulses
   L PICC in place, no exudate or erythema
   Jaundiced
   Opens eyes to voice, follows commands to squeeze hands and wiggle toes
   Foley draining dark yellow urine
   Labs / Radiology
   154 K/uL
   7.5 g/dL
   113 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   14 mg/dL
   104 mEq/L
   141 mEq/L
   22.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2140-7-14**]  03:15 AM
                             [**2140-7-14**]  03:20 PM
                             [**2140-7-14**]  04:42 PM
                             [**2140-7-15**]  01:31 AM
                             [**2140-7-15**]  12:13 PM
                             [**2140-7-15**]  08:36 PM
                             [**2140-7-16**]  04:24 AM
                             [**2140-7-16**]  04:50 AM
                             [**2140-7-16**]  04:37 PM
                             [**2140-7-17**]  03:24 AM
   WBC
   12.6
   12.3
   9.7
   10.5
   Hct
   23.7
   20.7
   22.9
   24.4
   22.4
   Plt
   238
   208
   161
   154
   Cr
   0.8
   0.6
   0.8
   0.7
   0.7
   0.8
   0.7
   TCO2
   38
   37
   Glucose
   108
   98
   115
   95
   100
   119
   113
   Other labs: PT / PTT / INR:25.3/52.5/2.5, ALT / AST:20/52, Alk Phos / T
   Bili:78/7.4, Differential-Neuts:77.6 %, Band:0.0 %, Lymph:12.5 %,
   Mono:4.0 %, Eos:5.5 %, Lactic Acid:1.8 mmol/L, LDH:262 IU/L, Ca++:9.1
   mg/dL, Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who is
   transferred to the MICU for hypoxic respiratory failure after
   thoracentesis.
   #. Hypoxic respiratory failure:
   Stable post self-extubation friday.
   Suspect re-expansion pulmonary edema. Improved on PSV. DDx including
   TRALI and pna, but think less likely.
   Minimal secretions to suggest a developing pna.
   - wean O2 support as tolerated, suctioning prn
   # Fever with GPR bacteremia
   Patient
s [**7-13**] blood cultures have grown GPRs prelim consistent with
   bacillus and clostridia. Possibly seeded blood from GI tract, other
   potential source includes emergently placed femoral line which is now
   discontinued. No evidence of recurrent SBP on repeat para.
   - continuing vancomycin and d/c
d  Zosyn per ID recommendations, to
   complete 14 day course, day 1=[**7-14**]
   - follow up pending urine and blood cultures, check stool C diff given
   recent antibiotics, CIS
   # Pleural effusion
    Chemistries consistent with a transudative process, probably due to
   cirrhosis (eg hepatic hydrothorax) though more common on R side. Had an
   echo recently with nl EF so CHF unlikely cause.
   - follow up pending fluid cultures
   # Alcoholic cirrhosis with ascites c/b SBP, c/b encephalopathy, c/b
   portal gastropathy:
   MELD 25 today
   - will cont lactulose q4
   - cont rifaximin
   - restarted cipro ppx s/p ceftriaxone for SBP
   - resume nadolol, lasix , spironolactone at lower doses then prior and
   titrate up as tolerated
   - cont pentoxifylline  (clarify with liver team if still needed)
   - MRI as outpatient for HCC
   # Macrocytic anemia: Has history of gastropathy. Hct had been drifting
   down, no gross bleeding now s/p 1 unit PRBCs [**7-15**] early AM. EGD with
   gastropathy, no variceal bleeding. No compelling evidence for hemolysis
   (DAT negative no schistocytes)
   - continue PPI  [**Hospital1 **]
   - daily crits
   - T&S
   - guaiac all stools
   # Acute Renal Failure: resolved.
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:
   Lines:
   PICC Line - [**2140-7-14**] 09:02 AM
   18 Gauge - [**2140-7-15**] 05:29 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2140-07-17 11:17:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   HPI:
   38yo with EtOH-induced cirrhosis with portal HTN, admit originally with
   encephalopathy. Admit to [**Hospital Unit Name 10**] in setting of thoracentesis c/b
   re-expansion pulmonary edema, requiring intubation.  course c/b
   bacillus bacteremia thought [**3-21**] femoral TLC.
   24 Hour Events:
   - No major overnight events; did well on 2L NC
   - Tolerating po diet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2140-7-16**] 06:00 AM
   Ciprofloxacin - [**2140-7-16**] 02:15 PM
   Vancomycin - [**2140-7-16**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-7-17**] 08:00 AM
   Other medications:
   Lactulose 60 qid
   Rifaximin 400 tid
   Lansoprazole 30 [**Hospital1 **]
   MVI
   Vancomycin 1250mg  q12hr ([**7-14**])
   Lasix 80mg po
   Spironolactone 200mg daily
   Ciprofloxacin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-7-17**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 98 (85 - 111) bpm
   BP: 110/72(81) {99/48(61) - 120/74(85)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.9 kg (admission): 77.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,279 mL
                                                                    541 mL
   PO:
             TF:
                                                                    304 mL
                                                                    162 mL
   IVF:
                                                                  1,416 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  4,160 mL
                                                                  1,590 mL
   Urine:
                                                                  3,060 mL
                                                                  1,090 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                 -1,881 mL
                                                                 -1,050 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   154 K/uL
   113 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   14 mg/dL
   104 mEq/L
   141 mEq/L
   22.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2140-7-14**]  03:15 AM
                             [**2140-7-14**]  03:20 PM
                             [**2140-7-14**]  04:42 PM
                             [**2140-7-15**]  01:31 AM
                             [**2140-7-15**]  12:13 PM
                             [**2140-7-15**]  08:36 PM
                             [**2140-7-16**]  04:24 AM
                             [**2140-7-16**]  04:50 AM
                             [**2140-7-16**]  04:37 PM
                             [**2140-7-17**]  03:24 AM
   WBC
   12.6
   12.3
   9.7
   10.5
   Hct
   23.7
   20.7
   22.9
   24.4
   22.4
   Plt
   238
   208
   161
   154
   Cr
   0.8
   0.6
   0.8
   0.7
   0.7
   0.8
   0.7
   TCO2
   38
   37
   Glucose
   108
   98
   115
   95
   100
   119
   113
   Other labs: PT / PTT / INR:25.3/52.5/2.5, ALT / AST:20/52, Alk Phos / T
   Bili:78/7.4, Differential-Neuts:77.6 %, Band:0.0 %, Lymph:12.5 %,
   Mono:4.0 %, Eos:5.5 %, Lactic Acid:1.8 mmol/L, LDH:262 IU/L, Ca++:9.1
   mg/dL, Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   38yo with presumed EtOH- induced cirrhosis, admit with encephalopathy
   and serratia SBP; transferred to MICU for hypoxemia following
   thoracentesis, likely due to re-expansion pulmonary edema.
   1. Hypoxemia
       - Likely due to re-expansion pulmonary edema and rapid accumulation
   of pleural effusion
       - Currently tolerating  2L NC; will wean to keep SpO2~93%
   2. Cirrhosis with portal HTN
        - Encephalopathy resolved.  Decrease lactulose given ~2L stool
   output.  continue Rifaximin
        - SBP prophylaxis with Ciprofloxacin
        - Nadolol 20mg daily for varices
        - PPI for portal gastropathy
        - Will change Lasix and spironolactone to 40 / 100, respectively.
   3. Bacillus bacteremia
        - Likely due to infected femoral line
        - Continue Vancomycin for 2 weeks course ([**7-14**]- [**7-28**])
   4. Thrombocytopenia
        - Platelets improving.
   5. ICU
        - Full Code
        - Access= DL-PICC ([**7-14**])
             + Will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 2071**]-duodenal tube.
        - Prophy- PPI, SQ heparin
        - Communication --> patient;s Dad
        - Dispo- called out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-7-14**] 09:02 AM
   18 Gauge - [**2140-7-15**] 05:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: